US04474692
By reacting 13.5 g of N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine ethyl ester hydrochloride with 11.6 g of N-carbobenzoxy-L-alanine and treating the reaction mixture as in Reference Example 4, there is obtained 7.5 g of L-alanyl-N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine as colorless amorphous powder.

reactant | N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine ethyl ester hydrochloride | 13.5 g | Cl.C(C)OC(CNC1CC2=CC=CC=C2CC1)=O
reactant | N-carbobenzoxy-L-alanine | 11.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | L-alanyl-N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine | 7.5 g | N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2CC1 | C15H20N2O3
